US08871756B2
(4S)-4-{2-[2-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethyl}-4,5-dihydro-1,3-oxazol-2-amine
To the stirred mixture of (2S)-2-amino-4-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]butan-1-ol (110 mg, 0.3 mmol), potassium acetate (90 mg, 0.91 mmol), methanol (8 mL) and water (2 mL) was added a solution of cyanogen bromide (32.3 mg, 0.3 mmol) in cold methanol (2 mL) at 0° C. After the addition, the resulting mixture was stirred at room temperature for 24 hours. The solvent was removed under reduced pressure to give a residue which was purified by preparative HPLC to give 40 mg of product as a white solid (yield was 34.5%). MS obsd. (ESI+) [(M+H)+] 387. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.77 (d, J=7.2 Hz, 1 H), 7.56-7.43 (m, 3 H), 7.17-7.04 (m, 4 H), 5.91 (brs, 1 H), 4.84 (s, 2 H), 4.21 (t, J=8.0 Hz, 2 H), 4.13 (brs, 2 H), 3.87 (t, J=7.2 Hz, 1 H), 3.77 (t, J=7.2 Hz, 1 H), 3.01 (brs, 2 H), 2.94-2.89 (m, 1 H), 1.78 (brs, 2 H), 1.72-1.67 (m, 2 H).

reactant | (2S)-2-amino-4-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]butan-1-ol | 0.3 mmol, 110 mg | N[C@H](CO)CCC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C23H27N3O
reactant | potassium acetate | 0.91 mmol, 90 mg | C(C)(=O)[O-].[K+]
reactant | water | 2 mL | O | H2O
reactant | cyanogen bromide | 0.3 mmol, 32.3 mg | N#CBr | CBrN
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 8 mL | CO | CH4O
product | (4S)-4-{2-[2-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethyl}-4,5-dihydro-1,3-oxazol-2-amine | 40 mg, yield was 34.5% | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)CC[C@@H]2N=C(OC2)N | C24H26N4O
